US04018790
The crude 3,4-dinitrobenzoyl chloride, 500 ml. of benzene, 25 ml. of pyridine and 22 g. (0.3 mole) of t-butyl alcohol were reacted as in Example 2 (A), second paragraph, to provide 33 g. (49 percent yield) of t-butyl 3,4-dinitrobenzoate.

reactant | 3,4-dinitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C7H3ClN2O5
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | t-butyl alcohol | 0.3 mole | C(C)(C)(C)O | C4H10O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | t-butyl 3,4-dinitrobenzoate | 49 percent yield | [N+](=O)([O-])C=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C11H12N2O6
